US08293768B2
Synthesis of 2-(3-(2-(1H-indol-3-yl)ethyl)-2-oxoimidazolidin-1-yl)-N-benzyl-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 23, making variations as required to replace 4-(chloromethyl)benzonitrile with 3-(2-bromoethyl)-1H-indole to react with N-benzyl-4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxamide, the title compound was obtained as a colorless solid in 22% yield: mp 215-217° C. (dichloromethane/hexanes); 1H NMR (300 MHz, DMSO-d6) δ 10.86 (s, 1H), 8.50 (t, J=6.0 Hz, 1H), 7.57 (d, J=6.0 Hz, 1H), 7.36-7.20 (m, 7H), 7.10-6.96 (m, 2H), 4.38 (d, J=6.0 Hz, 2H), 3.96 (t, J=9.0 Hz, 2H), 3.61-3.51 (m, 4H), 2.95 (t, J=9.0 Hz, 2H), 2.47 (s, 3H); MS (ES+) m/z 460.2 (M+1).

reactant | 4-(chloromethyl)benzonitrile | ClCC1=CC=C(C#N)C=C1 | C8H6ClN
reactant | 3-(2-bromoethyl)-1H-indole | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
reactant | N-benzyl-4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(NCC1)=O)C | C15H16N4O2S
product | 2-(3-(2-(1H-indol-3-yl)ethyl)-2-oxoimidazolidin-1-yl)-N-benzyl-4-methylthiazole-5-carboxamide | 22% yield | N1C=C(C2=CC=CC=C12)CCN1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC1=CC=CC=C1)=O | C25H25N5O2S
